US05328911
2-(4-Bromomethylphenyl)4-chlorobenzonitrile
6.83 g of 4-chloro-2-(4-methylphenyl)benzonitrile, 5.34 g of N-bromosuccinimide and 0.1 g of α,α'-azobis(isobutyronitrile) were heated in 220 ml of carbon tetrachloride under reflux for 2 hr. The succinimide was removed by filtration, and the filtrate was concentrated. The residue was crystallized from a mixed solvent of tetrahydrofuran-isopropyl ether. The yield was 5.6 g.

reactant | 4-chloro-2-(4-methylphenyl)benzonitrile | 6.83 g | ClC1=CC(=C(C#N)C=C1)C1=CC=C(C=C1)C | C14H10ClN
reactant | N-bromosuccinimide | 5.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | α,α'-azobis(isobutyronitrile) | 0.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 220 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-Bromomethylphenyl)4-chlorobenzonitrile | BrCC1=CC=C(C=C1)C1=C(C#N)C=CC(=C1)Cl | C14H9BrClN
